US04882357
A mixture of 23 g (150 mmol) of 5-methyl-2-nitrophenol 28.1 g (1.1 x 150 mmol) of 2-iodopropane and 22.8 g (1.1 x 150 mmol) of anhydrous potassium carbonate in 150 ml of acetonitrile is stirred and refluxed for 18 hours overnight. The solids were removed, the solvent evaporated and the residue is taken up in diethyl ether and the solution washed with 50 ml of 2N potassium hydroxide (2X), brine, dried (magnesium sulfate), and evaporated to an oil. Distillation gives 18.6 g (64%) of 5-methyl-1-(1-methylethoxy)-2-nitrobenzene; bp 98°-100° C. at 0.5 mm.

reactant | 5-methyl-2-nitrophenol | 150 mmol, 23 g | CC=1C=CC(=C(C1)O)[N+](=O)[O-] | C7H7NO3
reactant | 2-iodopropane | IC(C)C | C3H7I
reactant | potassium carbonate | 150 mmol, 22.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 5-methyl-1-(1-methylethoxy)-2-nitrobenzene | 18.6 g, 64% | CC=1C=CC(=C(C1)OC(C)C)[N+](=O)[O-] | C10H13NO3
